US04057647
A mixture of 1 g. of 3-(2',4'-difluoro-4-biphenylyl)butyramide, 2 ml. of concentrated hydrochloric acid and 2 ml. of acetic acid is heated under reflux for 48 hours and, after addition of water, is worked up in the customary manner to give 3-(2',4'difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)butyramide | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)N)C | C16H15F2NO
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(2',4'difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
